US06124323
4-(4-Fluorobenzyl)-1-(2-(4-fluorophenoxy)ethyl)piperidine hydrochloride
4-(4-Fluorobenzoyl)piperidine hydrobromide. A solution of 1-acetyl-4-(4-fluoro-benzoyl)piperidine (1.20 g, 4.80 mmol) in HCl (6N, 15 mL) was refluxed for 2 h. The cooled solution was made basic (NaOH) and then extracted with benzene (2×40 mL). The collected organic phase was washed with brine (50 mL), dried and was concentrated under reduced pressure. The free amine was dissolved in HBr (saturated solution in MeOH, 10 mL). The precipitated hydrobromide salt was collected, washed with ether (2×4 mL) and dried in vacuo to afford the title compound as a colorless solid (1.54 g, 98%): mp 198° C.; 1H NMR (CD3OD) 1.80-2.00 (m, 2H), 2.05-2.18 (m, 2H), 3.12-3.28 (m, 2H), 3.40-3.50 (m, 2H), 3.70-3.85 (m, 1H), 4.85 (s, 2H), 7.24 (t, J=8.3 Hz, 2H), 8.10 (dd, J=5.7 and 8.7 Hz, 2H).

reactant | 4-(4-Fluorobenzoyl)piperidine hydrobromide | Br.FC1=CC=C(C(=O)C2CCNCC2)C=C1
reactant | 1-acetyl-4-(4-fluoro-benzoyl)piperidine | 4.80 mmol, 1.20 g | C(C)(=O)N1CCC(CC1)C(C1=CC=C(C=C1)F)=O | C14H16FNO2
reactant | NaOH | [OH-].[Na+]
reactant | HCl | 6N, 15 mL | Cl | ClH
product | 4-(4-Fluorobenzyl)-1-(2-(4-fluorophenoxy)ethyl)piperidine hydrochloride | 1.54 g, 98% | Cl.FC1=CC=C(CC2CCN(CC2)CCOC2=CC=C(C=C2)F)C=C1 | InChI=1S/C20H23F2NO.ClH/c21-18-3-1-16(2-4-18)15-17-9-11-23(12-10-17)13-14-24-20-7-5-19(22)6-8-20;/h1-8,17H,9-15H2;1H
